US07655666B2
A solution of 4-amino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.7 g, 2.19 mmol) in dioxane (15 mL) was treated with i-Pr2NEt (0.5 mL, 2.92 mmol) and (CCl3O)2CO (0.655 g, 2.19 mmol) and the mixture was stirred at 60° C. for 1 h under nitrogen. To this solution was added CH3SO2NHNH2 (0.24 g, 2.19 mmol) and stirring was continued for 1 h at 60° C. and for 16 h at r.t. The mixture was concentrated in vacuo, diluted with water and extracted three times with 25 mL each of EtOAc. The combined organic layers were washed twice with water and dried (Na2SO4), filtered and the solvent evaporated. The product was recrystallized from MeOH/DCM 3:1 to give N-[6-(3-cyano-phenyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (0.78 g, 1.84 mmol, 84%), m.p. 291-292° C., ESI-MS: m/z 425 [M+H]+.

reactant | 4-amino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 2.19 mmol, 0.7 g | COC(=O)C=1C=C(C(=CC1N)C(F)(F)F)C1=CC(=CC=C1)C#N | C16H11F3N2O2
reactant | i-Pr2NEt | 2.92 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CH3SO2NHNH2 | 2.19 mmol, 0.24 g | CS(=O)(=O)NN | CH6N2O2S
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | N-[6-(3-cyano-phenyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 1.84 mmol, 0.78 g, 84% | C(#N)C=1C=C(C=CC1)C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C17H11F3N4O4S
